US07176242B2
N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-oxoindane-5-carboxamide
To 3-oxoindane-5-carboxylic acid (2.0 g, 11.5 mmol) in DMF (10 mL) is added diisopropylethylamine (8 mL, 46 mmol), HATU (5.5 g, 14.4 mmol), then (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method of EXAMPLE SP-272 (5.6 g, 13.8 mmol). The reaction is stirred 1 h at room temperature. The reaction was partitioned between ethyl acetate and water. The organic layer is washed with 1 N hydrochloric acid, saturated sodium bicarbonate, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/methylene chloride) gives the title compound. ESI MS m/z 493.2 [M+H]+.

reactant | 3-oxoindane-5-carboxylic acid | 11.5 mmol, 2.0 g | O=C1CCC2=CC=C(C=C12)C(=O)O | C10H8O3
reactant | diisopropylethylamine | 46 mmol, 8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 14.4 mmol, 5.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-oxoindane-5-carboxamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C=2C=C3C(CCC3=CC2)=O)C=C(C1)F | C29H30F2N2O3
